US07820665B2
N-(5-bromo-2-chloropyridin-3-yl)-4-(1-(methylamino)ethyl)benzenesulfonamide (488 mg, 1.21 mmol), N-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)imidazo[1,2-b]pyridazin-2-yl)acetamide (590.6 mg, 1.955 mmol), potassium carbonate (600 mg, 4.34 mmol), and Pd(dppf)Cl2*DCM complex (117.5 mg, 0.1439 mmol) were suspended in DME (8.0 mL) and water (2.0 mL). The reaction flask was fit with a reflux condensor and placed in a preheated oil bath (100 C) and stirred under nitrogen for 75 minutes. Then, the reaction was cooled to room temperature, and more N-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)imidazo[1,2-b]pyridazin-2-yl)acetamide (213 mg, 0.705 mmol) was added, and stirring was continued at 100 C. After another hour, the reaction was cooled to room temperature, diluted with DCM and MeOH, and filtered through a pad of Celite® (diatomaceous earth). The filtrate was concentrated and purified using silica gel on a filter (DCM to 50:1 to 20:1 to 5:1 to 3:1 DCM/2 N ammonia in MeOH). The fractions with product were collected, concentrated, treated with MeOH, and filtered. The solid was washed with MeOH, Et2O, DCM, MeOH, and Et2O. The solid was then collected and dried under high vacuum to afford N-(6-(6-chloro-5-(4-(1-(methylamino)ethyl)phenylsulfonamido)pyridin-3-yl)imidazo[1,2-b]pyridazin-2-yl)acetamide (253 mg, 42% yield) as a brown, amorphous solid. MS (ESI positive ion) m/z: 500 (M+1). Calcd for C22H22ClN7O3S: 499. 1H NMR (400 MHz, DMSO-d6): δ ppm 10.93 (s, 1H), 8.25 (s, 1H), 8.12-8.06 (m, 2H), 8.03 (d, J=9.54 Hz, 1H), 7.85 (d, J=8.53 Hz, 2H), 7.56-7.47 (m, 4H), 4.32-4.20 (m, 1H), 2.40 (s, 3H), 2.11 (s, 3H), 1.48 (d, J=6.53 Hz, 3H).

reactant | N-(5-bromo-2-chloropyridin-3-yl)-4-(1-(methylamino)ethyl)benzenesulfonamide | 1.21 mmol, 488 mg | BrC=1C=C(C(=NC1)Cl)NS(=O)(=O)C1=CC=C(C=C1)C(C)NC | C14H15BrClN3O2S
reactant | N-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)imidazo[1,2-b]pyridazin-2-yl)acetamide | 1.955 mmol, 590.6 mg | CC1(OB(OC1(C)C)C=1C=CC=2N(N1)C=C(N2)NC(C)=O)C | C14H19BN4O3
reactant | potassium carbonate | 4.34 mmol, 600 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)imidazo[1,2-b]pyridazin-2-yl)acetamide | 0.705 mmol, 213 mg | CC1(OB(OC1(C)C)C=1C=CC=2N(N1)C=C(N2)NC(C)=O)C | C14H19BN4O3
solvent | DME | 8.0 mL | COCCOC | C4H10O2
solvent | water | 2.0 mL | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | N-(6-(6-chloro-5-(4-(1-(methylamino)ethyl)phenylsulfonamido)pyridin-3-yl)imidazo[1,2-b]pyridazin-2-yl)acetamide | 253 mg, 42% yield | ClC1=C(C=C(C=N1)C=1C=CC=2N(N1)C=C(N2)NC(C)=O)NS(=O)(=O)C2=CC=C(C=C2)C(C)NC | C22H22ClN7O3S
